US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl 4,4,4-trifluorobutanoate was prepared from tetrahydro-pyran-4-one oxime, lead tetraacetate and 4,4,4,-trifluorobutyric acid using conditions of General Method 3. 1H NMR (250 MHz, chloroform-d) δ 3.91-4.19 (2H, m), 3.48-3.83 (2H, m), 2.71-2.94 (2H, m), 2.36-2.67 (2H, m), 2.15-2.34 (2H, m), 1.63-1.96 (2H, m).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 4,4,4,-trifluorobutyric acid | FC(CCC(=O)O)(F)F | C4H5F3O2
product | 4-Nitrosotetrahydro-2H-pyran-4-yl 4,4,4-trifluorobutanoate | FC(CCC(=O)OC1(CCOCC1)N=O)(F)F | C9H12F3NO4
